US06897231B2
B. 1-(5-(1H-1,2,3,4-Tetraazol-5-yl)(1H-indazol-3-yl))-4-(2-morpholin-4-ylethoxy)benzene
A mixture of 3-[4-(2-morpholin-4-ylethoxy)phenyl]-1H-indazole-5-carbonitrile (290 mg, 0.832 mmol), azidotributyltin (Bu3SnN3, 1.56 g, 4.70 mmol, 5.65 equiv.), and 9.0 mL toluene was refluxed for 17.5 h and concentrated to an oil. To the oil was added 6.5 mL of dioxane and 6.5 mL of 6.0 N aq. HCl. The mixture was stirred at room temperature for 4 h and then added to 25 mL of 6.0 N aq. NaOH. The mixture was extracted with 3× hexanes, and 3×Et2O. The aqueous layer was filtered to remove particulates. The pH was adjusted with 6.0 N aq. HCl to give maximum visual turbidity (approximately pH 5.0-5.5) and then the mixture was extracted with 2×EtOAc. The combined organics were dried (Na2SO4), filtered, and concentrated. The product was triturated in 5% EtOAc in hexanes. Filtration and drying of the solid afforded the title compound (29.0 mg, 8.90% yield): 1H NMR (CDCl3/CD3OD) δ 8.75 (s, 1H), 8.08 (d, 1H), 7.95 (d, 2H), 7.70 (m, 1H), 7.13 (d, 2H), 4.30 (t, 2H), 3.85-3.79 (m, 4H), 3.07 (t, 2H), 2.89-2.80 (m, 4H); ES-MS (m/z) 392 [M+1]+.

reactant | 3-[4-(2-morpholin-4-ylethoxy)phenyl]-1H-indazole-5-carbonitrile | 0.832 mmol, 290 mg | N1(CCOCC1)CCOC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C#N | C20H20N4O2
reactant | azidotributyltin | 4.70 mmol, 1.56 g, 5.65 equiv. | N(=[N+]=[N-])[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 9.0 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(5-(1H-1,2,3,4-Tetraazol-5-yl)(1H-indazol-3-yl))-4-(2-morpholin-4-ylethoxy)benzene | 29.0 mg, 8.90% yield | N1N=NN=C1C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)OCCN1CCOCC1 | C20H21N7O2
